US04800201
Preparation of 5-methyl-2-piperidino-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one hydrochloride
2-(3-Chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one and piperidine were reacted. The resultant compound was added with hydrochloric acid and was recrystallized from ethanol to give the titled compound as yellowish brown crystals.

reactant | 2-(3-Chlorobenzoyloxy)-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | ClC=1C=C(C(=O)OC2SC(=C(NC2=O)C)C2=CC=NC=C2)C=CC1 | C17H13ClN2O3S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
product | 5-methyl-2-piperidino-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one hydrochloride | Cl.CC=1NC(C(SC1C1=CC=NC=C1)N1CCCCC1)=O | InChI=1S/C15H19N3OS.ClH/c1-11-13(12-5-7-16-8-6-12)20-15(14(19)17-11)18-9-3-2-4-10-18;/h5-8,15H,2-4,9-10H2,1H3,(H,17,19);1H
